US04846882
A mixture of 4.9 g (0.028 mole) of 2-chloro-4-fluoro-5-aminobenzyl alcohol, 4.25 g (0.028 mole) of tetrahydrophthalic anhydride, and 100 ml of tetrahydrofuran was refluxed overnight. The solvent was evaporated under reduced pressure, leaving a thick, black oil. To this residue was added 100 ml of acetic acid, and the mixture was heated at 100° C. for several hours. The solvent was evaporated under reduced pressure and was replaced with 200 ml of ethyl acetate. This solution was washed three times with 150 ml of a saturated, aqueous solution of sodium bicarbonate and three times with 150 ml of 10% hydrochloric acid. The solution was dried over anhydrous magnesium sulfate, filtered, and the solvent was evaporated under reduced pressure, leaving 8.80 g of a viscous, black oil. This oil was passed through a column of silica gel, eluting with ethyl acetate/heptane (7/13). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure, yielding 6.3 g of N-[4-chloro-2-fluoro- 5-(methylcarbonyloxymethyl)phenyl]-3,4,5,6-tetrahydrophthalimide as a thick, amber oil. The nmr and ir spectra were consistent with the proposed structure.

reactant | 2-chloro-4-fluoro-5-aminobenzyl alcohol | 0.028 mole, 4.9 g | ClC1=C(CO)C=C(C(=C1)F)N | C7H7ClFNO
reactant | tetrahydrophthalic anhydride | 0.028 mole, 4.25 g | C1(C2C(C(=O)O1)CCC=C2)=O | C8H8O3
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | N-[4-chloro-2-fluoro- 5-(methylcarbonyloxymethyl)phenyl]-3,4,5,6-tetrahydrophthalimide | 6.3 g | ClC1=CC(=C(C=C1COC(=O)C)N1C(C2=C(C1=O)CCCC2)=O)F | C17H15ClFNO4
